US06884868B1
To a solution of 4-hydroxypiperidine (15 g) in a mixture of tetrahydrofuran (THF) (150 ml) and water (100 ml) was added dropwise a solution of di-tert-butyl dicarbonate (48.5 g) in THF (100 ml) keeping pH 9 with 1N-sodium hydroxide under ice-cooling. The mixture was stirred at ambient temperature for 1 hour. The reaction mixture was successively washed with water and saturated sodium chloride, dried over anhydrous magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give crystals. The crystals were washed with n-hexane (300 ml), collected by filtration and dried in vacuo to give 1-N-t-butyloxycarbonyl-4-hydroxypiperidine (24.66 g).

reactant | 4-hydroxypiperidine | 15 g | OC1CCNCC1 | C5H11NO
reactant | di-tert-butyl dicarbonate | 48.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
product | 1-N-t-butyloxycarbonyl-4-hydroxypiperidine | 24.66 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
